US07985753B2
1-Methyl-5-pyridin-2-yl-1,2,3,4-tetrahydro-isoquinoline
In close analogy to the procedure described above, 5-Bromo-1-methyl-1,2,3,4-tetrahydro-isoquinoline is reacted with 2-trimethylstannyl-pyridine to provide the title compound.

reactant | 5-Bromo-1-methyl-1,2,3,4-tetrahydro-isoquinoline | BrC1=C2CCNC(C2=CC=C1)C | C10H12BrN
reactant | 2-trimethylstannyl-pyridine | C[Sn](C1=NC=CC=C1)(C)C
product | 1-Methyl-5-pyridin-2-yl-1,2,3,4-tetrahydro-isoquinoline | CC1NCCC2=C(C=CC=C12)C1=NC=CC=C1 | C15H16N2
